US06468998B1
3-Anilinopyrrolidine (0.67 g) and 2-(4-fluorophenyl)ethyl p-toluenesulfonate (1.2 g) were dissolved in acetonitrile (20 ml), and potassium carbonate (2 g) was added. The mixture was refluxed for 3 hours, and after the completion of the reaction, the solvent was evaporated under reduced pressure. The obtained residue was dissolved in ethyl acetate, washed with an aqueous potassium carbonate solution, and dried over magnesium sulfate. The solvent was evaporated under reduced pressure, and the obtained residue was subjected to silica gel column chromatography (chloroform:methanol=20:1). The obtained eluate was concentrated to give 3-anilino-1-(2-(4-fluorophenyl)ethyl)pyrrolidine (0.83 g).

reactant | 3-Anilinopyrrolidine | 0.67 g | N(C1=CC=CC=C1)C1CNCC1 | C10H14N2
reactant | 2-(4-fluorophenyl)ethyl p-toluenesulfonate | 1.2 g | C1(=CC=C(C=C1)S(=O)(=O)OCCC1=CC=C(C=C1)F)C | C15H15FO3S
reactant | potassium carbonate | 2 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 3-anilino-1-(2-(4-fluorophenyl)ethyl)pyrrolidine | 0.83 g | N(C1=CC=CC=C1)C1CN(CC1)CCC1=CC=C(C=C1)F | C18H21FN2
